US06833378B2
4-(1-Ethyl-2-hydroxy-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester
A mixture of 4-chloro-2-(2,4,6-trimethyl-phenoxy)-6-methyl-nicotinic acid methyl ester (250 mg, 0.78 mmol) and 3-amino-pentan-2-ol (320 mg, 3.13 mmol) in DMSO was heated in 130° C. oil bath for 24 hr. The mixture cooled to rt and quenched with water and extracted with ethyl acetate. The organic layer was separated, washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give 280 mg of crude product as an oil. The oil was purified through silica gel column chromatography using 20% ethyl acetate in hexane as eluent to give the title compound as a yellow solid, mp 116-120° C.

reactant | 4-chloro-2-(2,4,6-trimethyl-phenoxy)-6-methyl-nicotinic acid methyl ester | 0.78 mmol, 250 mg | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)C)C)=O | C17H18ClNO3
reactant | 3-amino-pentan-2-ol | 3.13 mmol, 320 mg | NC(C(C)O)CC | C5H13NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-(1-Ethyl-2-hydroxy-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1NC(C(C)O)CC)C)OC1=C(C=C(C=C1C)C)C)=O | C22H30N2O4
